*PSPICE MODEL for HBFP-0420 in SOT343
*
.SUBCKT HBFP0450   60      20      40
LL1     20      25      .22NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    25      0       .08PF
LT1     25      30      .20NH
C2T1    30      0       .05PF
*
LLB     30      35      .70NH
CCEB    30      50      .04PF
LL2     40      45      .15NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    45      0       .04PF
LT2     45      50      .10NH
C2T2    50      0       .10PF
*
LLE     50      55      .20NH
CCEC    50      70      .01PF
LL3     60      65      .20NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    65      0       .144PF
LT3     65      70      .50NH
C2T3    70      0       .10PF
*
LLC     70      75      .70PF   
CCBC    30      70      .05PF
* CALL DIE MODEL
XDIE    75      35      55      HP0450
.ENDS

.SUBCKT HP0450   75      20      85
RBX     20      130     0.20995
RCX     140     75      0.4
RE      150     84      0.1565       
RSE     160     85      1
RBAL    84      85      1.4
CCOX    20      140     0.24 E-12
CEOX    130     84      6.227E-14
DBC     20      140     DMOD1
DBE     130     150     DMOD2
DCS     160     140     DMOD3
QINT    140     130     150     160     Q450     
.ENDS
*
.MODEL  DMOD1   D(IS=1.40507E-17, CJO=2.393E-14,
+               VJ=.729, M=.44, TNOM=21, N=1, FC=0.8)
.MODEL  DMOD2   D(IS=1E-24, CJO=2.593E-14, VJ=.8971,
+               M=.2292, TNOM=21, N=1.0029, FC=0.8)
.MODEL  DMOD3   D(IS=1E-24, CJO=4.6443E-13, VJ=0.6,
+               M=0.42, RS=1.5804E2, FC=0.8, TNOM=21)
*
* Note: high beta value compensates for current leakage through DBE  
.MODEL  Q450    NPN (BF=1E6, IS=3.01E-17, VA=44, BR=1, 
+    ME=0.5063, NF=1, PTF=22, TF=5.3706E-12, 
+    CJE= 9.48E-14, XTF=20, IK=1.4737E-01, PE=0.9907, 
+    ISE=5E-19, NE=1.006, VTF=0.8, XTB=0.7, 
+    ITF=2.21805486, RB=9.30144818E-1, CJC=1.87E-14, 
+    XCJC=0.439790997, PC=0.6775, MC=0.3319, FC=0.8, 
+    IKR=1.1E-1, NC=2, VAR=30.37, NR=1.005, TR=4E-9, 
+    TNOM=21, IRB=3.029562E-5, RBM=0.01, XTI=3, EG=1.17)   